US20010027196A1
4-Furan-2-yl-5-iodo-pyrimidin-2-ylamine
From 2-acetylfuran and N,N-dimethylformamide dimethyl acetal in DMF. Then treatment with guanidine carbonate and sodium methylate in methanol. Then treatment with N-iodosuccinimide in acetic acid. EI-MS m/e (%): 287 (M+, 100).

reactant | 2-acetylfuran | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | C[O-].[Na+]
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Furan-2-yl-5-iodo-pyrimidin-2-ylamine | O1C(=CC=C1)C1=NC(=NC=C1I)N | C8H6IN3O
